US06936612B2
8-Cyclopentyl-6-ethyl-2-methanesulfonyl-8H-pyrido[2,3-d]pyrimidin-7-one (0.115 g, 0.47 mmol) and 6′-amino-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-4-ol (0.117 g, 0.61 mmol) were combined in dry xylenes and heated at 140° C. under nitrogen overnight. The crude reaction mixture then was allowed to cool and diluted with CH2Cl2. A precipitate was collected by filtration and dried in vacuo to give 8-cyclopentyl-6-ethyl-2-(4-hydroxy-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one (15 mg, 7%). MS (APCI); M++1: Calc'd, 435.2. Found 435.2.

reactant | 8-Cyclopentyl-6-ethyl-2-methanesulfonyl-8H-pyrido[2,3-d]pyrimidin-7-one | 0.47 mmol, 0.115 g | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)S(=O)(=O)C)CC)=O | C15H19N3O3S
reactant | 6′-amino-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-4-ol | 0.61 mmol, 0.117 g | NC1=CC=C(C=N1)N1CCC(CC1)O | C10H15N3O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-cyclopentyl-6-ethyl-2-(4-hydroxy-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-6′-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one | 15 mg, 7% | C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)NC2=CC=C(C=N2)N2CCC(CC2)O)CC)=O | C24H30N6O2
